US06479536B1
3-(4-Isopropylphenyl)-N-[3-(4-methoxyphenyl)propyl]-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine
By using N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-3-(4-methoxyphenyl)propionamide, the title compound was synthesized according to Example 2b. Yield: 99%. Melting point: 62-65° C. (Pentane)

reactant | N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-3-(4-methoxyphenyl)propionamide | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NC(CCC2=CC=C(C=C2)OC)=O)C)(C)C | C32H39NO3
solvent | Pentane | CCCCC | C5H12
product | 3-(4-Isopropylphenyl)-N-[3-(4-methoxyphenyl)propyl]-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | Yield: 99% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NCCCC2=CC=C(C=C2)OC)C)(C)C | C32H41NO2
